US07157488B2
7-Fluorotryptamine
Combine lithium aluminum hydride (12.8 g; 336.1 mmol) and 0° C. anhydrous tetrahydrofuran (160 mL). Cool resulting exotherm to 0° C. Add 7-fluoro-3-(2-nitrovinyl)-1H-indole (11.55 g, 56.0 mmol) in anhydrous THF (200 mL) dropwise. After 30 min, warm to ambient temperature. After 4 hours, cool to 0° C. and add saturated sodium sulfate solution (35 mL) dropwise. Filter the solids and wash with THF and ethyl acetate. Concentrate the filtrate and dissolve the residue in methylene chloride. Filter the precipitate to give 1.26 g of product as brown crystals. Concentrate the filtrate and chromatograph on silica gel eluting with 5%, 7%, 10% 2N ammonia in methanol/methylene chloride to give product: MS(m/e): 179 (M+1), 177 (M−1); Calculated for C10H11FN2: Calcd: C, 67.40; H, 6.22; N, 15.72. Found: C, 67.06; H, 6.11; N, 15.48.

reactant | lithium aluminum hydride | 336.1 mmol, 12.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-fluoro-3-(2-nitrovinyl)-1H-indole | 56.0 mmol, 11.55 g | FC=1C=CC=C2C(=CNC12)C=C[N+](=O)[O-] | C10H7FN2O2
reactant | sodium sulfate | 35 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
product | 7-Fluorotryptamine | 1.26 g | FC1=C2NC=C(CCN)C2=CC=C1 | C10H11FN2
